US08710223B2
Step 2: 1-(2-cyclopropyl-5-nitrophenyl)-5-(trifluoromethyl)-1H-tetrazole
A mixture of NaN3 (0.56 g, 8.57 mmol, 2.5 eq) and (Z)—N-(1-chloro-2,2,2-trifluoroethylidene)-2-cyclopropyl-5-nitrobenzenamine intermediate (1.0 g, 3.43 mmol, 1.0 eq) in 15 mL dry acetonitrile was stirred at room temperature for 16 hours. The reaction mixture was poured into ice-cold aqueous Na2CO3 solution, extracted with ethyl acetate. The organic layer washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The resulting crude mixture was purified by column chromatography, eluting with n-hexane:ethyl acetate (10-50% EtOAc in increments of 10% EtOAc)), giving the desired product in 37% overall yield (1.55 g).

reactant | NaN3 | 8.57 mmol, 0.56 g, 2.5 eq | [N-]=[N+]=[N-].[Na+]
reactant | (Z)—N-(1-chloro-2,2,2-trifluoroethylidene)-2-cyclopropyl-5-nitrobenzenamine | 3.43 mmol, 1.0 g, 1.0 eq | Cl\C(\C(F)(F)F)=N/C1=C(C=CC(=C1)[N+](=O)[O-])C1CC1 | C11H8ClF3N2O2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 1-(2-cyclopropyl-5-nitrophenyl)-5-(trifluoromethyl)-1H-tetrazole | C1(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])N1N=NN=C1C(F)(F)F | C11H8F3N5O2
